US08624034B2
Step C) (2R)-4-[5-Fluoro-4-(2-fluoro-3-methoxyphenyl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide
Pyridinium p-toluenesulfonate (190 mg, 0.76 mmol) was added to a solution of (2R)-4-[5-fluoro-4-(2-fluoro-3-methoxyphenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (777 mg, 1.51 mmol) in ethanol (15 mL). The reaction was heated to 50° C. and stirred at this temperature overnight. Additional pyridinium p-toluenesulfonate (118 mg, 0.47 mmol) was added to the solution and the reaction was heated at 60° C. for 3 h. The reaction was allowed to cool to rt and the precipitate was collected via filtration. The solid was washed with ethanol (15 mL) and hexanes (15 mL) and dried in vacuo to afford the title compound as a white solid (413 mg, 63.5%). MS (LCMS) m/z 431.0 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.57 (s, 1H) 2.08-2.25 (m, 0H) 2.41-2.56 (m, 1H) 3.02-3.19 (m, 3H) 3.71-3.85 (m, 1H) 3.88 (s, 3H) 3.98-4.13 (m, 1H) 6.47 (d, J=7.02 Hz, 1H) 6.93-7.08 (m, 1H) 7.19-7.36 (m, 2H) 8.04 (d, J=5.66 Hz, 1H) 9.24 (d, J=1.56 Hz, 1H) 11.07 (d; J=1.56 Hz, 1H).

reactant | Pyridinium p-toluenesulfonate | 0.76 mmol, 190 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | (2R)-4-[5-fluoro-4-(2-fluoro-3-methoxyphenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 1.51 mmol, 777 mg | FC=1C(=CC(N(C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O)C1=C(C(=CC=C1)OC)F | C23H28F2N2O7S
reactant | pyridinium p-toluenesulfonate | 0.47 mmol, 118 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | (2R)-4-[5-Fluoro-4-(2-fluoro-3-methoxyphenyl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | 413 mg, 63.5% | FC=1C(=CC(N(C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O)C1=C(C(=CC=C1)OC)F | C18H20F2N2O6S
